US07459562B2
A) 2-(3-(Benzyloxy)phenyl)acetic acid
The crude benzyl 2-(3-(benzyloxy)phenyl)acetate was dissolved in a mixture of MeOH (20 mL) and THF (50 mL). To this solution was added 40 mL of 1N NaOH (40 mmol). The reaction mixture was stirred at room temperature for 2 h. The organic solvent was removed in vacuo. The remaining aqueous solution was extracted with diethyl ether (2×50 mL). The aqueous solution was then acidified with 1N HCl (50 mL) and the title compound precipitated. The solid was collected by filtration (4.35 g, 90% two steps). MS(ESI+) m/z 265 (M+Na)+.

reactant | benzyl 2-(3-(benzyloxy)phenyl)acetate | C(C1=CC=CC=C1)OC=1C=C(C=CC1)CC(=O)OCC1=CC=CC=C1 | C22H20O3
reactant | NaOH | 40 mmol, 1N, 40 mL | [OH-].[Na+]
solvent | MeOH | 20 mL | CO | CH4O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-(3-(Benzyloxy)phenyl)acetic acid | C(C1=CC=CC=C1)OC=1C=C(C=CC1)CC(=O)O | C15H14O3
